US06339093B1
4-(1,3-Dihydro-isoindol-2-yl)-quinoline hydrochloride
The title compound m.p. 264-267° C. and MS: m/e=247.3 (M+H+), was prepared from 4-chloroquinoline and 2,3-dihydro-1H-isoindole.

reactant | 4-chloroquinoline | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 2,3-dihydro-1H-isoindole | C1NCC2=CC=CC=C12 | C8H9N
product | 4-(1,3-Dihydro-isoindol-2-yl)-quinoline hydrochloride | Cl.C1N(CC2=CC=CC=C12)C1=CC=NC2=CC=CC=C12 | InChI=1S/C17H14N2.ClH/c1-2-6-14-12-19(11-13(14)5-1)17-9-10-18-16-8-4-3-7-15(16)17;/h1-10H,11-12H2;1H
